US07795283B2
i) Diethyl (4′-nitrobiphenyl-4-yl)malonate
A mixture of 4-(4-bromophenyl)nitrobenzene (Journal of Organic Chemistry, 2005, 70(9), 3730) (800 mg, 2.88 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (Xphos) (69 mg) and caesium carbonate (2.81 g, 8.63 mmol) in toluene (40 mL) was deoxygenated then palladium(II) acetate (13 mg, 0.06 mmol) and diethyl malonate (0.480 mL, 3.2 mmol) were added. The reaction mixture was heated under reflux for 2 h, cooled and then filtered through diatomaceous earth and the filter washed with EtOAc. The filtrate was concentrated by evaporation and adsorbed onto silica then purified by chromatography, eluting with 0-25% EtOAc in isohexane, to give the title compound (1.047 g) as a solid.

reactant | 4-(4-bromophenyl)nitrobenzene | 2.88 mmol, 800 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H8BrNO2
reactant | caesium carbonate | 8.63 mmol, 2.81 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diethyl malonate | 3.2 mmol, 0.480 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.06 mmol, 13 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 69 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | Diethyl (4′-nitrobiphenyl-4-yl)malonate | 1.047 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C19H19NO6
